US07351734B2
A mixture of 2-chlorobenzonitrile (12.3 g) and benzo[1,3]dioxol-5-yl-acetonitrile (10 g) in dimethylformamide (25 mL) was added with stirring and cooling in an ice bath to potassium tert-butoxide (20.1 g) dissolved in dimethylformamide (50 mL) at such a rate that the temperature did not exceed 25° C. After stirring for 0.5 h, methyl chloroacetate (11.1 g) was added in 10 min. After being stirred for 24 h at rt, the mixture was poured into a mixture of 0.1 M HCl (200 mL), heptane (30 mL) and toluene (15 mL). Stirring for 1 h, filtration and washing with water (2×50 mL), toluene (2×10 mL) and heptane (2×25 mL) afforded 79% of 3-Amino-1-benzo[1,3]dioxol-5-yl-1-cyano-1H-indene-2-carboxylic acid methyl ester.

reactant | 2-chlorobenzonitrile | 12.3 g | ClC1=C(C#N)C=CC=C1 | C7H4ClN
reactant | benzo[1,3]dioxol-5-yl-acetonitrile | 10 g | O1COC2=C1C=CC(=C2)CC#N | C9H7NO2
reactant | potassium tert-butoxide | 20.1 g | CC(C)([O-])C.[K+]
reactant | methyl chloroacetate | 11.1 g | ClCC(=O)OC | C3H5ClO2
reactant | HCl | 0.1 M, 200 mL | Cl | ClH
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | heptane | 30 mL | CCCCCCC | C7H16
product | 3-Amino-1-benzo[1,3]dioxol-5-yl-1-cyano-1H-indene-2-carboxylic acid methyl ester | 79% | COC(=O)C=1C(C2=CC=CC=C2C1N)(C#N)C1=CC2=C(OCO2)C=C1 | C19H14N2O4
